US08283353B2
4′-{[7-butyl-4-(2,2-dimethyltetrahydro-2H-pyran-4-yl)-5-oxo-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile
A mixture of methyl 2-[(2′-cyanobiphenyl-4-yl)methyl]-3-oxoheptanoate (0.89 g) and N-(2,2-dimethyltetrahydro-2H-pyran-4-yl)-4H-1,2,4-triazol-3-amine (0.25 g) was stirred at 250° C. for 20 min under microwave irradiation. The obtained reaction mixture was purified by silica gel column chromatography to give the title compound as a colorless solid (0.45 g, 71%).

reactant | methyl 2-[(2′-cyanobiphenyl-4-yl)methyl]-3-oxoheptanoate | 0.89 g | C(#N)C1=C(C=CC=C1)C1=CC=C(C=C1)CC(C(=O)OC)C(CCCC)=O | C22H23NO3
reactant | N-(2,2-dimethyltetrahydro-2H-pyran-4-yl)-4H-1,2,4-triazol-3-amine | 0.25 g | CC1(OCCC(C1)NC1=NN=CN1)C | C9H16N4O
product | 4′-{[7-butyl-4-(2,2-dimethyltetrahydro-2H-pyran-4-yl)-5-oxo-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile | 0.45 g, 71% | C(CCC)C1=C(C(N(C=2N1N=CN2)C2CC(OCC2)(C)C)=O)CC2=CC=C(C=C2)C=2C(=CC=CC2)C#N | C30H33N5O2
